*** Component Net List Start ***

R_J3 Net_1 Net_9 0
X_AD623-2 Net_16 Net_12 Net_6 Net_9 Net_2 0 Net_26 0 AD623/AD
X_AD623-1 Net_15 Net_11 Net_10 Net_7 Net_2 0 Net_25 0 AD623/AD
R_J4 Net_8 Net_7 0
C_ADCap1 Net_2 0 3.2uF IC=0
C_ADCap2 Net_2 0 3.2uF IC=0
C_C1 0 Net_2 0.1uF IC=0
C_C2 Net_2 0 3.2uF IC=0
X_AD623-3 Net_17 Net_13 Net_19 Net_22 Net_2 0 Net_27 0 AD623/AD
C_ADCap3 Net_2 0 3.2uF IC=0
X_AD623-4 Net_18 Net_14 Net_20 Net_24 Net_2 0 Net_28 0 AD623/AD
C_ADCap4 Net_2 0 3.2uF IC=0
R_J8 Net_21 Net_22 0
R_J10 Net_24 Net_23 0
C_C3 0 Net_2 3.2uF IC=0
C_C4 0 Net_2 3.2uF IC=0

*** Component Net List End ***

*** Spice Libary Statements Start ***

*** Spice Libary Statements End ***

*** Spice Include Statements Start ***

*** Spice Include Statements End ***

* Distributed as-is, unmodified, and at no charge by
* www.spicemodel.com 
* accuracy should be verified by user
* 
* AD623 SPICE Macromodel          Rev. B 9/2000
*					JCH / ADI
*                                       TRW / ADI
* Copyright 1999 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of
* this model indicates your acceptance of the terms and pro-
* visions in the License Statement.
* 
*                   non-inverting input
*                   |   inverting input
*                   |   |  +Rg
*                   |   |   |  -Rg
*                   |   |   |   |   positive supply
*                   |   |   |   |   |  negative supply
*                   |   |   |   |   |  |  output
*                   |   |   |   |   |  |  |   reference
*                   |   |   |   |   |  |  |   |
.SUBCKT AD623/AD    IN+ IN- Rg+ Rg- 99 50 OUT REF
QIN1    50 IN+ A3 QPI1
QIN2    50 IN- A4 QPI2
IBIAS1  99   A3  2u
IBIAS2  99   A4  2u
R1     Rg+ 103 50k
R2     Rg- 104 50k
CMR    Rg+  99 0.5p
R3     104 202 50k
R4     103 201 50k
*Output stage common-mode error
R5     201 REF 50.004k
R6     202 OUT 49.996k
*X1     201 202 99 50 OUT Inamp_output
*X2       A3 Rg+ 99 50 103 Inamp_input
*X3       A4 Rg- 99 50 104 Inamp_input
*Quiescent current correction
Icor 99 50 1.25e-4
* INPUT STAGE
*
Q1B   B4  B3  B5  QPI
Q2B   B6  202  b7  QPI
RC1B    50  B4  8.5k
RC2B    50  B6  8.5k
RE1B     B5  B8  3.3k
RE2B     B7  B8  3.3k 
ENOISB   201  B3  B53 98 1 
D1B      B3 99  DX
D2B     50  B3  DX
IBIASB  99  B8  10u
*
* INTERNAL VOLTAGE REFERENCE
*
EREF1 98 97  99 0 0.5
EREF2 97  0  50 0 0.5
*
* VOLTAGE NOISE STAGE
*
DN1B   B51 B52 DNOI1
VN1B   B51 98 0.64
VMEASB B52 98 0
RNOI1B B52 98 1
F1B    B53 98 VMEASB 1
RNOI2B B53 98 1
*
* INTERMEDIATE GAIN STAGE WITH POLE = 578kHz
*
G1B   98 B20 B4 B6 1E-3 
RP1B  98 B20 550
CP1B  98 B20 500p
*
* INTERMEDIATE GAIN STAGE WITH POLE = 900kHz
*
G2B   98 B21 B4 B6 1E-3 
RP2B  98 B21 500
CP2B  98 B21 354p
*
* GAIN STAGE WITH DOMINANT POLE
*
G4B    98 B30 B21 98 3.65E-3
RG1B   B30 98 25k
CF1B   B30 OUT 0.275n
D5B B31 99 DX
D6B 50 B32 DX
V1B B31 B30 0.6
V2B B30 B32 0.6
*
* OUTPUT STAGE
*
Q3B     OUT B42 B43 QPOX
Q4B     OUT B44 B46 QNOX
RO3B    99 B43 30
RO4B    B46 50 30
VBI01B  99 B41 0.5965
VBIO2B  B47 50 0.5965
EO3B    B41 B42 98 B30 10
EO4B    B44 B47 B30 98 10
*
* INPUT STAGE
*
Q1C   C4  C5  C8 QPI
Q2C   C6  RG+  C8 QPI
RC1C    50  C4 8.5k
RC2C    50  C6 8.5k
ENOIC    A3  C5 C53 98 1 
D1C      C3 99 DX
D2C     50  C3 DX
IBIASC  99  C8 10u
*
*
* VOLTAGE NOISE STAGE
*
DN1C    C51 C52 DNOI1
VN1C    C51 98 0.64
VMEASC  C52 98 0
RNOI1C  C52 98 1e-4
F1C     C53 98 VMEASC 1
RNOI2C  C53 98 1
*
* INTERMEDIATE GAIN STAGE 
*
G1C   98 C20 C4 C6 1E-3 
RP1C  98 C20 4.67k
*
* GAIN STAGE WITH DOMINANT POLE
*
G4C   98 C30 C20 98 2E-3
RG1C  C30 98 125k
CF1C  C30 103 2.5n
D5C   C31 99 DX
D6C   50 C32 DX
V1C   C31 C30 0.6
V2C   C30 C32 0.6
*
* OUTPUT STAGE
*
Q3C     103 C42 C43 QPOX
Q4C     103 C44 C46 QNOX
RO3C    99 C43 30
RO4C    C46 50 30
VBI01C  99 C41 0.5965
VBIO2C  C47 50 0.5965
EO3C    C41 C42 98 C30 5
EO4C    C44 C47 C30 98 5
*
* INPUT STAGE
*
Q1D   D4  D5  D8 QPI
Q2D   D6  RG-  D8 QPI
RC1D    50  D4 8.5k
RC2D    50  D6 8.5k
ENOID    A4  D5 D53 98 1 
D1D      D3 99 DX
D2D     50  D3 DX
IBIASD  99  D8 10u
*
*
* VOLTAGE NOISE STAGE
*
DN1D    D51 D52 DNOI1
VN1D    D51 98 0.64
VMEASD  D52 98 0
RNOI1D  D52 98 1e-4
F1D     D53 98 VMEASD 1
RNOI2D  D53 98 1
*
* INTERMEDIATE GAIN STAGE 
*
G1D   98 D20 D4 D6 1E-3 
RP1D  98 D20 4.67k
*
* GAIN STAGE WITH DOMINANT POLE
*
G4D   98 D30 D20 98 2E-3
RG1D  D30 98 125k
CF1D  D30 104 2.5n
D5D   D31 99 DX
D6D   50 D32 DX
V1D   D31 D30 0.6
V2D   D30 D32 0.6
*
* OUTPUT STAGE
*
Q3D     104 D42 D43 QPOX
Q4D     104 D44 D46 QNOX
RO3D    99 D43 30
RO4D    D46 50 30
VBI01D  99 D41 0.5965
VBIO2D  D47 50 0.5965
EO3D    D41 D42 98 D30 5
EO4D    D44 D47 D30 98 5
*
.MODEL QPI PNP(VAF=100)
.MODEL QNOX NPN(IS=6E-15,VAF=120,RC=50)
.MODEL QPOX PNP(IS=6E-15,BF=112,VAF=120,RC=50)
.MODEL DX D(IS=1E-16)
.MODEL DNOI1 D(AF=1.5, KF=6E-10)
.MODEL DNOI2 D(KF=1E-8)
.MODEL QPI1 PNP(VAF=100)
.MODEL QPI2 PNP(VAF=99.3)
.ENDS 
*
*---------------------------------------------------------------------------
*
*  Analog Devices SPICE Macro-model Library    
*  
*  Copyright 2001 by Analog Devices, Inc.
*  
*  LICENSE STATEMENT
*  
*  The information on this diskette is protected under the
*  United States copyright laws.  Analog Devices, Inc. ("ADI")
*  hereby grants users of these macro-models hereto referred
*  to as licensee, a nonexclusive, nontransferable license to
*  use these macro-models as long as the licensee abides by
*  the terms of this agreement.  Before using the macro-
*  models, the licensee should read this license.  If the
*  licensee does not accept these terms, this diskette should
*  be returned to ADI within 30 days.
*  
*  The licensee may not sell, loan, rent, lease, or license
*  the macro-models, in whole, in part, or in modified form,
*  to anyone outside the licensee's company.  The licensee
*  may modify these macro-models to suit his specific
*  applications, and the licensee may make copies of this 
*  diskette or macromodels for use within his company only.
*  
*  These macro-models are provided "AS IS, WHERE IS, AND WITH
*  NO WARRANTY OF ANY KIND EITHER EXPRESSED OR IMPLIED, 
*  INCLUDING BUT NOT LIMITED TO ANY IMPLIED WARRANTIES OF
*  MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE."
*  
*  In no event will ADI be liable for special, collateral,
*  incidental, or consequential damages in connection with or
*  arising out of the use of these macro-models.  ADI
*  reserves the right to make changes to the products and the
*  macro-models without prior notice.
*  
*  
* APPLICATIONS INFORMATION
*  
* The SPICE macro-models on this diskette, as of the above
* release date, are the most current for Analog Devices
* products.  As more models are completed, new
* releases of this diskette will be issued.  With Release
* K, the ADSpice library now has 446 macromodels, which is
* an increase of 18 models over Release J.
* 
* The model library contains many types of models in addition
* to op amps.  The types of models are:  op amps, instrumentation
* amplifiers, references, switches, variable gain amplifiers, 
* multipliers, matched transistors, buffers, and a balanced line
* receiver.
* 
* All the models have an advanced architecture that allows
* for multiple poles and zeros to model accurately the AC
* and transient response of the device.  Unique to ADI, the
* following models contain noise sources, allowing SPICE 
* analysis of the total noise of a circuit:
* 
*        AD581                    AD584
*        AD587                    AD588
*        AD645                    AD680
*        AD712                    AD743
*        AD745                    AD780
*        AD797                    OP113
*        OP176                    OP177
*        OP213                    OP27
*        OP275                    OP285
*        OP37                      OP413
*        OP77                      REF01
*        REF02                    REF05
*        REF10                    SSM2017
*        AD795                    OP284
*        AD603                    SSM2135
*        
* 
* For more information on the ADSpice models, please contact
* the ADI literature department and request the following
* application notes:
* 
* AN110, AN117, AN120, AN126, AN132, and AN138
* 
* Contact:   Analog Devices, Inc.
*                  Literature Dept.
* 	      One Technology Way
* 	      PO Box   9106
* 	      Norwood, MA 02062      USA
* 
* Phone:   (800) ANALOGD  (262-5643)
* 
* MODEL REVISIONS
* 
* Some of the models have been revised since the last release
* the diskette.  If a model was revised, the release letter
* on the first line of the file was changed, and the
* revisions are documented in the comments at the beginning
* of the net-list file.
* 
* In addition, the hyphen from the names of the models 
* has been removed to avoid confusion between the file name
* and the model name.  This was done for almost all of the
* models.
* 			
* OPEN-LOOP GAIN AND PHASE
* 
* A common mistake in simulating an amplifier's open-loop
* gain and phase performance is to run the model open-loop. 
* Like the actual device, without feedback, even a small
* amount of offset can cause the circuit to saturate to
* either supply rail.  Because of the saturation, the model
* gives a much lower open-loop gain.  Thus, the model needs
* to be run closed-loop.  Typically, the easiest way to do
* this is to run the model in an inverting op amp
* configuration and have SPICE plot the log of the output
* minus the log of the inverting input.
* 
* TRANSIENT ANALYSIS
* 
* One of the most difficult problems in using SPICE is
* convergence.  As the number of nodes increases, so do the
* calculations needed for convergence.  If the analysis
* quits due to non-convergence, then adding the following
* line to the circuit net-list will help in most cases:
* 
*         .OPTIONS  ITL4=40
* 
* This increases the number of iterations from the default
* of 10 to 40.  The SPICE simulator will then make 40
* iterations to try to find the next point of the transient
* solution before going to a smaller time step.
* 
* NEGATIVE CAPACITANCE
* 
* Some SPICE simulators do not allow the use of a negative
* capacitor, which is used in some macro-models to properly
* shape the frequency response.  Those simulators will
* issue an error message stating that the negative
* capacitor is not permissible.  When this problem is
* encountered, change the sign of the negative capacitor to
* positive.  Then, change the signs of the two resistors in
* the same stage to negative.   
* 
* POWER DISSIPATION
* 
* All models accurately model the supply current of the
* part including the output current.  To calculate the
* power dissipation of the circuit, the supply current
* should be multiplied by the supply voltage.  This may
* give a different number compared to the total power
* dissipation printed at the end of all SPICE ".OUT" files. 
* The discrepancy is due to higher than normal internal 
* currents, which are not added to the supply current.  
* The noise models are especially affected by this because 
* of the large currents in the internal stages needed to 
* keep the noise low.  Thus, always use the actual supply 
* currents to calculate the total power dissipation and do 
* not use SPICE's printed power dissipation in the ".OUT"
* file.
* 
*
*  -------------------------------------------------------------------------
*
* * OP AMP MODEL TEST CIRCUIT
* *
* *  This net-list will test the OP-42 model in a simple
* *  inverting gain of -1 circuit.  Three different types
* *  of waveforms will be simulated:  DC, AC and transient.
* *  This file can be used as direct input to your SPICE
* *  simulator software.
* *  To look at the output, enter "TYPE EXAMPLE.OUT"
* *  An output file generated using PSpice 6.0 is saved
* *  in the file "COMPARE.OUT" to check your output.
* *
* X1   0   2   4   5   3   OP42
* RIN  1   2   2K
* RF   3   2   2K
* VP   4   0   DC 15
* VN   5   0   DC -15
* VIN  1   0   DC 0 AC 1 PULSE(-100M 100M 0 5N 5N 1U 2U)
* .DC VIN -10 10 1
* .PRINT DC V(3)
* .AC DEC 10 10K 100MEG
* .PLOT AC VM(3) VP(3)
* .TRAN 20N 2U
* .PLOT TRAN V(3)
* .INC OP42.CIR
* .END
*
* ----------------------------------------------------------------------------
*

.TRAN 0s 0s 0s

